US05162315
Preparation of N-[2-(2-hydroxyethyl)aminoethyl]dodecanamide
22 g of 1-(2-hydroxyethyl)-2-undecyl-2-imidazoline and 300 ml of water was stirred at 40°-50° C. for 24 hours. The resulting soapy solution was salted with 50 g of NaCl and then extracted with 500 ml ethyl acetate. The organic layer was dried, filtered and concentrated to give 23 g of solid. This material was dissolved in hexane by heating at 50 C. for 2 hrs., then cooled to room temperature and filtered to afford 18.8 g of pure product, m.p. 92°-94° C.

reactant | 1-(2-hydroxyethyl)-2-undecyl-2-imidazoline | 22 g | OCCN1C(=NCC1)CCCCCCCCCCC | C16H32N2O
reactant | NaCl | 50 g | [Na+].[Cl-]
reactant | water | 300 ml | O | H2O
product | N-[2-(2-hydroxyethyl)aminoethyl]dodecanamide | 23 g | OCCNCCNC(CCCCCCCCCCC)=O | C16H34N2O2
